Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
sore throat, neck pain/mass
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Ms ___ is a pleasant ___ with hx hypothyroidism, depression 
who presents after discovering hard lump in neck and pain with 
swallowing x 1 day. Patient denies fevers, drooling, voice 
changes, SOB, difficulty speaking, trismus. Patient has had 
sudden weight gain of 2 lbs over the past month. She has taken 
thyroid medication for many years without acute changes.  No 
other recent med changes. She denies cold or heat intolerance, 
dry skin, weakness, chest pain, palpitations currently although 
states she had a transient episode of CP/palps one month ago.  
She had no infectious sxs leading up to this event, only 
endorsed itching and cough. 

In the ED, initial vitals were: 98.0 94 159/83 20 98% RA.  Pt 
appeared non-toxic with a firm, nodular midline neck mass which 
was TTP.  Labs were nl, thyroid studies pending at the time of 
transfer. Thyroid US notable for heterogeneous thyroid with 
increased vascularity consistent with thyroiditis and 1.2 cm 
colloid cyst within the isthmus.

On the floor, c/o mild HA and moderate pain in neck.

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies cough, shortness of 
breath. Denies chest pain or tightness, palpitations. Denies 
nausea, vomiting, diarrhea, constipation or abdominal pain. No 
recent change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias. 10 pt ros otherwise negative.

 
Past Medical History:
depression
hypothyroidism
CHOLECYSTECTOMY 
GERD
MIGRAINE HEADACHES 
Hypotension
 
Social History:
___
Family History:
(per chart, confirmed with pt): sister with lymphoma, mother and 
2 sisters with thyroid disease, sister with HTN/asthma.  Also hx 
CVA in family member.
 
Physical Exam:
Vitals: 97.6 ___ 20 97 RA 
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENT: MMM, oropharynx clear,
Neck: Supple, firm, tender approx. 1 cm midline thyroid nodule
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no 
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions

Discharge PE:
Vitals: 98.0 136 / 68 8918 99 RA
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENT: MMM, oropharynx clear,
Neck: Supple, firm, tender approx. 1 cm midline thyroid nodule
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no 
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions
 
Pertinent Results:
___ 09:05PM   GLUCOSE-101* UREA N-7 CREAT-0.7 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-29 ANION GAP-14
___ 09:05PM   estGFR-Using this
___ 09:05PM   CALCIUM-9.6 PHOSPHATE-3.7 MAGNESIUM-2.3
___ 09:05PM   WBC-6.9 RBC-4.34 HGB-13.8 HCT-42.6 MCV-98 
MCH-31.8 MCHC-32.4 RDW-12.8 RDWSD-46.2
___ 09:05PM   PLT COUNT-260

LABS:
See below, prior labs, imaging and records reviewed in OMR

STUDIES:
1. Heterogeneous thyroid with increased vascularity consistent 
with
thyroiditis.
2. 1.2 cm colloid cyst within the isthmus.

EKG: NSR

___ 09:05PM BLOOD TSH-3.8
___ 09:05PM BLOOD T4-7.1 T3-121
___ 09:05PM BLOOD antiTPO-130*
 
Brief Hospital Course:
___ yo F with hx of hypothyroidism, depression, p/w acute 
thyroiditis.

#  Thyroiditis/colloid cyst: considerations include infectious 
(however no clear infx prodrome), de Quervain's thyroiditis, 
autoimmune, malignancy.  No clear drainable area on US to 
suggest abscess.  She is not on any medications that could be 
contributing including amiodarone, lithium or tyrosine kinase 
inhibitors.  Clinically pt does not appear to be hyper or hypo 
thyroid.  TSH, T3 and T4 normal.  Anti-TPO is positive.  She had 
no difficulty eating or drinking, no SOB, wheezing or difficulty 
swallowing.  She was started on naproxen with improvement in 
pain and set-up for outpatient endocrinology follow-up.  
-Follow-up with endocrinology
-Continue NSAID for pain
-Continue home levothyroxine.

# Depression: cont home meds

# FEN: No IVF, replete electrolytes, regular diet
# PPX: Subcutaneous heparin
# ACCESS: peripherals
# CODE: presumed full
# CONTACT: no HCP, daughter is emergency contact
# DISPO: home
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 25 mcg PO DAILY 
2. Lactulose 15 mL PO DAILY 

 
Discharge Medications:
1.  Naproxen 500 mg PO Q12H Duration: 2 Weeks 
Take with meals 
RX *naproxen 500 mg 1 tablet(s) by mouth twice a day Disp #*28 
Tablet Refills:*0 
2.  Lactulose 15 mL PO DAILY  
3.  Levothyroxine Sodium 25 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Painful thyroiditis (subacute thyroiditis vs. ___'s 
thyroidiits)
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with pain in the front of your neck.  You had 
an ultrasound which showed that your thyroid gland is inflamed.  
Your thyroid hormone levels were normal and you had no 
difficulty breathing or swallowing.  Please follow-up with your 
primary care physician and with the thyroid specialist as 
scheduled.
 
Followup Instructions:
___